US09428509B2
3-((2-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy)cyclobutanecarbonitrile
2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (1 equiv), 3-hydroxycyclobutanecarbonitrile (1.1 equiv), sodium 2-methylpropan-2-olate (1.2 equiv) and 1,4-dioxane (0.14 M) were combined in a sealable vessel with a stir bar. The resulting mixture was put under nitrogen atmosphere, sealed, stirred vigorously, and heated at 70° C. for 16 h. After cooling to room temperature, the reaction mixture was purified using silica gel chromatography (0 to 50% ethyl acetate in hexane) to give the title compound (77% yield). MS (ESI) m/z 505.0 [M+H]+.

reactant | 2,4-Dichloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)Cl | C12H16Cl2IN3OSi
reactant | 3-hydroxycyclobutanecarbonitrile | 1.1 equiv | OC1CC(C1)C#N | C5H7NO
reactant | sodium 2-methylpropan-2-olate | 1.2 equiv | CC(C)(C)[O-].[Na+]
solvent | 1,4-dioxane | 0.14 M | O1CCOCC1 | C4H8O2
product | 3-((2-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy)cyclobutanecarbonitrile | 77% yield | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CC(C2)C#N | C17H22ClIN4O2Si
